US07405210B2
Preparation 94: 1,4-Dioxa-7-aza-spiro [4.5] decane
To a solution of 1-Boc-3-piperidone (700 mg, 3.51 mmol) in toluene (20 mL) was added ethylene glycol (588 μL, 10.54 mmol) followed by p-toluene sulfonic acid hydrate (1.0 g, 5.27 mmol) and the reaction heated to reflux using Dean-Stark apparatus for 7 h. To the mixture was added NaHCO3 solution, and the organic layer was removed. The aqueous phase was evaporated to dryness and the resulting residue dissolved in THF. Filtration through celite and removal of the solvent in vacuo gave the desired product as light brown oil. δH (CD3OD): 3.99 (2H, s), 3.73–3.57 (2H, m), 3.63 (4H, m), 2.77 (1H, m), 2.73 (1H, m), 1.76 (2H, m).

reactant | 1-Boc-3-piperidone | 3.51 mmol, 700 mg | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | ethylene glycol | 10.54 mmol, 588 μL | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid hydrate | 5.27 mmol, 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1,4-Dioxa-7-aza-spiro [4.5] decane | O1CCOC12CNCCC2 | C7H13NO2
